US09255110B2
A mixture of 7-methoxy-6-nitro-quinoline (1.5 g, 7.35 mmol) and pyridine hydrochloride (2.6 g, 22.58 mmol) was heated at 150° C. for ca. 5 hours. The residue was dissolved in an aqueous solution of sodium hydroxide (3 M) and extracted twice with ethyl acetate. The combined organic extract were washed twice with an aqueous solution of sodium hydroxide (3 M) and then discarded. The combined aqueous layers were neutralized (pH 7) by addition of concentrated hydrochloric acid and extracted 4 times with ethyl acetate. The combined organic extracts were dried over anhydrous sodium sulfate, filtered and evaporated under reduced pressure. The yellow solid residue was purified on a silica gel plug to give 1.29 g (69% yield) of 6-nitro-quinolin-7-ol as a yellow solid.

reactant | 7-methoxy-6-nitro-quinoline | 7.35 mmol, 1.5 g | COC1=C(C=C2C=CC=NC2=C1)[N+](=O)[O-] | C10H8N2O3
reactant | pyridine hydrochloride | 22.58 mmol, 2.6 g | Cl.N1=CC=CC=C1
solvent | sodium hydroxide | 3 M | [OH-].[Na+]
product | 6-nitro-quinolin-7-ol | 1.29 g, 69% yield | [N+](=O)([O-])C=1C=C2C=CC=NC2=CC1O | C9H6N2O3
